US08735424B2
To a cooled (1-2° C.) suspension of sodium hydride (60% in mineral oil) (1.5 equiv) in 250 ml THF, benzyl alcohol (1.0 equiv.) was added dropwise and the mixture stirred 30 min under N2. This suspension was then added in small portions (via syringe, over 1 hr) to a solution of 2,4-dichloropyrimidine (1.5 equiv.) in THF also at 1-2° C. (internal thermometer). The resulting mixture (0.06 M) was stirred at temp <2° C. for 2.5 hrs, then quenched with NH4Cl(sat.) and extracted with EtOAc. Upon separation, the organic layer was washed with NaCl(sat.), dried over Na2SO4, concentrated and purified by silica gel chromatography (hexanes/DCM eluant) to yield 4-(benzyloxy)-2-chloropyrimidine (24%). LC/MS=221.0 (M+H), LC=3.93 min.

reactant | sodium hydride | 1.5 equiv | [H-].[Na+]
reactant | benzyl alcohol | 1.0 equiv. | C(C1=CC=CC=C1)O | C7H8O
reactant | 2,4-dichloropyrimidine | 1.5 equiv. | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 4-(benzyloxy)-2-chloropyrimidine | 24% | C(C1=CC=CC=C1)OC1=NC(=NC=C1)Cl | C11H9ClN2O
